US06667316B1
2-[1-(3-Ethoxy-4-methoxyphenyl)-2-(methylsulfonyl)ethyl]-4-[(methylsulfonyl)amino]isoindoline-1,3-dione
A mixture of 4-[bis(methylsulfonyl)amino]-2-[1-(3-ethoxy-4-methoxyphenyl)-2-(methylsulfonyl)ethyl]isoindoline-1,3-dione (0.8 g, 1.39 mmol) and 2N NaOH (1.59 mL, 3.18 mmol) in CH3CN (120 mL) was stirred at room temperature for 8 hours. The mixture was neutralized with 6N hydrogen chloride (0.6 mL) and then concentrated. The residue was dissolved in methylene chloride (90 mL), washed with water (30 mL), brine (30 mL) and dried over magnesium sulfate. The solvent was removed in vacuo and the resulting solid was slurried in ethanol (50 mL) to give after isolation by filtration 2-[1-(3-ethoxy-4-methoxyphenyl)-2-(methylsulfonyl)ethyl]-4-[(methylsulfonyl)amino]isoindoline-1,3-dione (0.6 g, 86%) as a white solid: mp 191-193° C.; 1H NMR (DMSO-d6) δ9.31 (s, 1H), 7.85-7.74 (m, 2H), 7.61 (d, J=6.6 Hz, 1H), 7.08 (s, 1H), 7.00-6.91 (m, 2H), 5.80-5.74 (m, 1H), 4.38-4.28 (dd, J=10.5, 14.3 Hz, 1H), 4.19-4.11 (dd, J=4.5, 14.3 Hz, 1H), 4.03 (q, J=6.9 Hz, 2H), 3.73 (s, 3H), 3.27 (s, 3H), 3.00 (s, 3H0, 1.32 (t, J=6.9 Hz, 3H); 13C NMR (DMSO-d6) δ167.43, 166.71, 148.92, 147.87, 136.26, 135.73, 131.91, 129.40, 125.01, 119.79, 118.39, 117.59, 112.41, 111.76, 63.83, 55.48, 53.00, 47.35, 41.06, 40.63, 14.64; Anal. Calcd. for C21H24N2O8S3+0.05 didulfonamide: C, 50.56; H, 4.86; N, 5.60; S, 13.12. Found: C, 50.25; H, 4.81; N, 5.60; S, 13.12.

reactant | 4-[bis(methylsulfonyl)amino]-2-[1-(3-ethoxy-4-methoxyphenyl)-2-(methylsulfonyl)ethyl]isoindoline-1,3-dione | 1.39 mmol, 0.8 g | CS(=O)(=O)N(C1=C2C(N(C(C2=CC=C1)=O)C(CS(=O)(=O)C)C1=CC(=C(C=C1)OC)OCC)=O)S(=O)(=O)C | C22H26N2O10S3
reactant | NaOH | 3.18 mmol, 2N, 1.59 mL | [OH-].[Na+]
reactant | hydrogen chloride | 6N, 0.6 mL | Cl | ClH
solvent | CH3CN | 120 mL | CC#N | C2H3N
product | 2-[1-(3-Ethoxy-4-methoxyphenyl)-2-(methylsulfonyl)ethyl]-4-[(methylsulfonyl)amino]isoindoline-1,3-dione | C(C)OC=1C=C(C=CC1OC)C(CS(=O)(=O)C)N1C(C2=CC=CC(=C2C1=O)NS(=O)(=O)C)=O | C21H24N2O8S2
